US08791132B2
1-(2-Allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyrimidin-4-yl-propan-2-ol (300 mg, 0.785 mmol) was dissolved in DCM (6 mL) and N2 was purged for 5 min into the reaction mixture. 1,3-Dimethylbarbituricacid (367 mg, 2.356 mmol) and Pd(PPh3)4 (18 mg, 0.0157 mmol) was added and the mixture stirred for 1 h at RT. After consumption of starting material, the reaction mixture was diluted with saturated potassium carbonate (50 mL) and extracted with DCM (2×40 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated, crude was purified by reverse phase chromatography to obtain 97 mg of 1-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyrimidin-4-yl-propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 9.13 (s, 1H), 8.45 (d, 1H), 7.31 (d, 1H), 7.25 (s, 1H), 6.94 (s, 2H), 4.3 (q, 2H), 3.93 (q, 2H), 3.13 (m, 2H), 2.78 (d, 1H), 2.57 (d, 1H), 1.6 (s, 3H). Separation by chiral HPLC provided enantiomers 42a and 42b.

reactant | 1-(2-Allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyrimidin-4-yl-propan-2-ol | 0.785 mmol, 300 mg | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)Cl)CC(C)(O)C2=NC=NC=C2)CC1 | C21H23ClN4O
reactant | 1,3-Dimethylbarbituricacid | 2.356 mmol, 367 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.0157 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyrimidin-4-yl-propan-2-ol | 97 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C1=NC=NC=C1)CCNC3 | C18H19ClN4O
